US07132436B2
2,3,4-Trichloro-N-(7-methoxy-4,5-dihydronaphtho[1,2-d][1,3]thiazol-2-yl)benzenesulfonamide
The title compound was prepared from 7-methoxy-4,5-dihydronaphtho(1,2-D)(1,3)thiazol-2-amine hydrobromide (85 mg) and 2,3,4-trichlorobenzenesulfonyl chloride (76 ng) as described in the synthetic METHOD B to give a white solid (13.1 mg) with purity >90%: MS (pos) m/z 475.3, 477.3

reactant | 7-methoxy-4,5-dihydronaphtho(1,2-D)(1,3)thiazol-2-amine hydrobromide | 85 mg | Br.COC=1C=C2CCC3=C(N=C(S3)N)C2=CC1
reactant | 2,3,4-trichlorobenzenesulfonyl chloride | 76 ng | ClC1=C(C=CC(=C1Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
product | 2,3,4-Trichloro-N-(7-methoxy-4,5-dihydronaphtho[1,2-d][1,3]thiazol-2-yl)benzenesulfonamide | ClC1=C(C=CC(=C1Cl)Cl)S(=O)(=O)NC=1SC2=C(N1)C1=CC=C(C=C1CC2)OC | C18H13Cl3N2O3S2
